US06399627B1
To a solution of ethyl (Z) 3-(3-cyanophenyl)-2-butenoate (2 g, 9.3 mmol) in 50 ml carbon tetrachloride was added N-bromosuccinimide (1.74 g, 9.77 mmol) and benzoyl peroxide (40 mg, 0.165 mmol). Reaction mixture was heated to reflux and stirred over night. Reaction was allowed to cool to room temperature to which 50 ml dichloromethane was added. Organic was washed with 2×50 ml water, dried over magnesium sulfate, filtered and concentrated in vacuo. Crude residue was chromatographed on silica gel using 2.5% EtOAc in hexane as the eluent to give ethyl (Z) 3-(3-cyanophenyl)-4-bromo-2-butenoate (0.77 g, 29%) as a clear oil (note: NOE experiment showed compound isomerized during bromination). H1NMR (CDCl3) 1.311-1.347 (t, 3H); 4.239-4.292 (m, 2H); 4.92 (s, 2H); 6.18 (s, H); 7.514-7.801 (m, 4H). ES-MS (M+H+): 293.95 and 296.0

reactant | ethyl (Z) 3-(3-cyanophenyl)-2-butenoate | 9.3 mmol, 2 g | C(#N)C=1C=C(C=CC1)\C(=C/C(=O)OCC)\C | C13H13NO2
reactant | N-bromosuccinimide | 9.77 mmol, 1.74 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.165 mmol, 40 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | ethyl (Z) 3-(3-cyanophenyl)-4-bromo-2-butenoate | 0.77 g, 29% | C(#N)C=1C=C(C=CC1)/C(=C/C(=O)OCC)/CBr | C13H12BrNO2
